US07384969B2
2.1 Ethyl 5-methoxy-1H-indole-2-carboxylate
1.91 ml (26.15 mmol) of thionyl chloride are added dropwise with stirring at 0° C. to a solution of 1 g (5.23 mmol) of 5-methoxy-1H-indole-2-carboxylic acid in 52 ml of ethanol. The reaction mixture is heated at reflux for 2 hours and then it is cooled and concentrated under reduced pressure. The residue is taken up in 100 ml of ethyl acetate and this solution is washed with two times 50 ml of water and then with 50 ml of a saturated sodium chloride solution. The solution is dried over magnesium sulfate and filtered, and then the filtrate is concentrated under reduced pressure. 1.2 g of product are obtained, which product is used as is in the following stage.

reactant | thionyl chloride | 26.15 mmol, 1.91 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-methoxy-1H-indole-2-carboxylic acid | 5.23 mmol, 1 g | COC=1C=C2C=C(NC2=CC1)C(=O)O | C10H9NO3
reactant | ethanol | 52 ml | C(C)O | C2H6O
product | Ethyl 5-methoxy-1H-indole-2-carboxylate | 1.2 g | COC=1C=C2C=C(NC2=CC1)C(=O)OCC | C12H13NO3
